US07276526B2
2-[1-(2-Chloro-6-fluoro-phenyl)-cyclopropyl]-4-(2-chloro-4-methoxy-5-methly-phenyl)-5-methyl-thiazole
2-Bromo-1-(2-chloro-4-methoxy-5-methly-phenyl)-propan-1-one (254 mg, 0.87 mmol) and 1-(2-Chloro-6-fluoro-phenyl) cyclopropane carbothioic acid amide (200 mg, 0.87) mmol) were dissolved in dimethlyformamide (DMF) (2.9 mL). The reaction was heated with stirring to 80° C. overnight. The mixture was then cooled, diluted with ethyl acetate and washed three times with water and once with brine. The organic layer was separated, dried with sodium sulfate and concentrated in vacuo. The crude product was then chromatographed on silica using an ethyl acetate/hexane gradient resulting in a pale green-yellow solid. Yield: 110 mg (18%). [MH]+422.0. 1H NMR (300 MHz, CDCl3) •1.54 (m, cyclopropyl, 2H), 2.11 (m, cyclopropyl, 2H), 2.27 (s, CH3, 3H), 2.28 (s, CH3, 3H), 3.93 (s, —OCH3, 3H), 6.97 (s, Ar, 1H), 7.15 (m, Ar, 1H), 7.35 (s, Ar, 1H), 7.37 (m, Ar, 2H).

reactant | 2-Bromo-1-(2-chloro-4-methoxy-5-methly-phenyl)-propan-1-one | 0.87 mmol, 254 mg | BrC(C(=O)C1=C(C=C(C(=C1)C)OC)Cl)C | C11H12BrClO2
reactant | 1-(2-Chloro-6-fluoro-phenyl) cyclopropane carbothioic acid amide | 200 mg | ClC1=C(C(=CC=C1)F)C1(CC1)C(N)=S | C10H9ClFNS
solvent | dimethlyformamide | 2.9 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[1-(2-Chloro-6-fluoro-phenyl)-cyclopropyl]-4-(2-chloro-4-methoxy-5-methly-phenyl)-5-methyl-thiazole | ClC1=C(C(=CC=C1)F)C1(CC1)C=1SC(=C(N1)C1=C(C=C(C(=C1)C)OC)Cl)C | C21H18Cl2FNOS
